US06599917B1
a) 3-Benzyloxy-2-hydroxymethyl-6-methylpyridine
100 g of 3-hydroxy-6-methyl-2-pyridine methanol and 150 g of potassium carbonate were suspended in 400 ml of N,N-dimethylformamide. Under heating under stirring 60° C. in an oil bath, 85 ml of benzyl bromide was added dropwise thereinto. Further, after heating under stirring for 30 minutes, insoluble matters were filtered off. Water was added to the filtrate, and the mixture was extracted with ethyl acetate. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was removed. The residue was recrystallized from ethanol/hexane, to give 145 g of the target compound.

reactant | 3-hydroxy-6-methyl-2-pyridine methanol | 100 g | OC=1C(=NC(=CC1)C)CO | C7H9NO2
reactant | potassium carbonate | 150 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 85 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 3-Benzyloxy-2-hydroxymethyl-6-methylpyridine | 145 g | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)C)CO | C14H15NO2
